US08957069B2
1-(5-bromo-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-7-yl)ethanone
Aluminium chloride (3.56 g, 26.7 mmol) was added to a mixture of chlorobenzene (40 mL) containing 5-bromo-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran (4.55 g, 17.8 mmol) synthesized in Reference Example 120 and acetyl chloride (4.20 g, 53.4 mmol) at −40° C., and the mixture was stirred at the same temperature. After stirring for 1 hour, the reaction solution was poured into water, and extraction was performed using ethyl acetate. The extract was washed with saturated sodium bicarbonate water and saturated saline, and dried using anhydrous magnesium sulfate. After that, the solvent was removed under reduced pressure. The residue was purified by silica gel chromatography (hexane-ethyl acetate 99:1-95/5) to give 440 mg of the title compound (yield: 8%).

reactant | Aluminium chloride | 26.7 mmol, 3.56 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chlorobenzene | 40 mL | ClC1=CC=CC=C1 | C6H5Cl
reactant | 5-bromo-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran | 17.8 mmol, 4.55 g | BrC=1C(=CC2=C(CC(O2)(C)C)C1C)C | C12H15BrO
reactant | acetyl chloride | 53.4 mmol, 4.20 g | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(5-bromo-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-7-yl)ethanone | 440 mg, yield: 8% | BrC=1C(=C(C2=C(CC(O2)(C)C)C1C)C(C)=O)C | C14H17BrO2
